US08859553B2
Step 2. N-Cyclobutyl-6-(2-(trimethylsilyl)ethynyl)pyridazin-3-amine
6-Bromo-N-cyclobutylpyridazin-3-amine (0.60 g, 2.63 mmol), trimethylsilylacetylene (TMSA) (1.29 g, 13.1 mmol), Pd(PPh3)4 (0.15 g), and CuI (0.04 mg) were placed in a vial with a rubber septum. After the mixture underwent 3 cycles of vacuum/filling with Ar2, DMF (3.0 mL) and N,N-diisopropylethylamine (DIPEA) (0.41 g, 3.2 mmol) were added. The mixture was then stirred at 80° C. for 16 hrs. The reaction mixture was concentrated and the resulting residue was purified by silica gel chromatography (eluent: 30% ethyl acetate in n-hexane, ethyl acetate was added 0.5% Et3N) to give an off-white solid (0.48 g, 74.5%). 1H NMR (300 MHz, CDCl3) δ: 7.26-7.29 (1H, d, J=9.0 Hz), 6.50-6.53 (1H, d, J=9.0 Hz), 5.55 (1H, s), 4.17-4.24 (1H, m), 2.40-2.46 (2H, m), 1.89-1.98 (2H, m), 1.77-1.85 (2H, m), 0.28 (9H, s).

reactant | 6-Bromo-N-cyclobutylpyridazin-3-amine | 2.63 mmol, 0.60 g | BrC1=CC=C(N=N1)NC1CCC1 | C8H10BrN3
reactant | trimethylsilylacetylene | 13.1 mmol, 1.29 g | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 3.2 mmol, 0.41 g | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | Pd(PPh3)4 | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.04 mg | [Cu]I
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | N-Cyclobutyl-6-(2-(trimethylsilyl)ethynyl)pyridazin-3-amine | 0.48 g, 74.5% | C1(CCC1)NC=1N=NC(=CC1)C#C[Si](C)(C)C | C13H19N3Si
